US09382243B2
1-(cyclopentylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine
1-(4-bromophenyl)piperazine (1 g, 4.15 mmol) was dissolved in DCM (40 ml) and cooled in 0° C. Then DMAP (0.051 g, 0.415 mmol), triethylamine (0.723 ml, 5.18 mmol), and cyclopentyl sulfonyl chloride (0.699 g, 4.15 mmol) were added. The reaction was stirred for 1 h at rt, then diluted with DCM and saturated NH4Cl/water (1:1). The aqueous phase was extracted with DCM (×2), and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was dissolved in DMSO (17 ml), and bis(pinacolato)diboron (2.106 g, 8.29 mmol), and potassium acetate (1.221 g, 12.44 mmol) were added. The solution was sparged with N2 for 15 min and [1,1′-Bis(Diphenylphosphino)Ferrocene]Dichloropalladium (II)) (0.607 g, 0.829 mmol) was added. The reaction was heated to 80° C. overnight, then diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2), and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 20% to 80% EtOAc:Hexane to provide the desired product. LC-MS: calculated for C21H33BN2O4S 420.23 observed m/e: 420.98 (M+H)+ (Rt 1.23/2 min).

reactant | 1-(4-bromophenyl)piperazine | 4.15 mmol, 1 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | triethylamine | 5.18 mmol, 0.723 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentyl sulfonyl chloride | 4.15 mmol, 0.699 g | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | bis(pinacolato)diboron | 8.29 mmol, 2.106 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.44 mmol, 1.221 g | C(C)(=O)[O-].[K+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.415 mmol, 0.051 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NH4Cl water | [NH4+].[Cl-].O
product | 1-(cyclopentylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine | C1(CCCC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H33BN2O4S
